US08076322B2
1,1,1-Trifluoropropan-2-yl chloroformate
To a mixture of 1,1,1-trifluoro-2-propanol (114.1 mg, 1.0 mmol, Matrix Scientific) and triphosgene (98 mg, 0.33 mmol, Aldrich) in ethyl ether (10 mL) at −40° C. was added pyridine (80 μL, 1.0 mmol, EMD) in ethyl ether (1.0 mL) dropwise. The reaction mixture was warmed to 0° C. and stirred for 6 h. The flask containing the above reaction mixture was put into a refrigerator overnight and then filtered. The filtrate was concentrated in vacuo in ice both to give a colorless oil which was used directly in the next step.

reactant | 1,1,1-trifluoro-2-propanol | 1.0 mmol, 114.1 mg | FC(C(C)O)(F)F | C3H5F3O
reactant | triphosgene | 0.33 mmol, 98 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 1.0 mmol, 80 μL | N1=CC=CC=C1 | C5H5N
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 1.0 mL | C(C)OCC | C4H10O
product | 1,1,1-Trifluoropropan-2-yl chloroformate | ClC(=O)OC(C(F)(F)F)C | C4H4ClF3O2
